US07750150B2
(4) Preparation of 2-[4-[2-(5-trifluoromethylbenzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]acetamide monohydrochloride
2-[4-[2-(5-Trifluoromethylbenzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]acetamide (200 mg, 0.35 mmol) was dissolved in ethanol (4 mL), followed by the addition of pyridine hydrochloride (82 mg, 0.70 mmol). The reaction mixture was concentrated, and to the residue, ethanol (0.5 mL) and water (5 mL) were added. A precipitate was collected by filtration to obtain the title compound (180 mg, 85%) as a colorless crystalline powder.

reactant | 2-[4-[2-(5-Trifluoromethylbenzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]acetamide | 0.35 mmol, 200 mg | FC(C=1C=CC2=C(N=C(O2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2SC)C)SC)C1)(F)F | C24H28F3N5O2S3
reactant | pyridine hydrochloride | 0.70 mmol, 82 mg | Cl.N1=CC=CC=C1
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-[4-[2-(5-trifluoromethylbenzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]acetamide monohydrochloride | 180 mg, 85% | Cl.FC(C=1C=CC2=C(N=C(O2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2SC)C)SC)C1)(F)F | InChI=1S/C24H28F3N5O2S3.ClH/c1-15-12-19(35-2)21(22(28-15)36-3)30-20(33)14-32-8-6-31(7-9-32)10-11-37-23-29-17-13-16(24(25,26)27)4-5-18(17)34-23;/h4-5,12-13H,6-11,14H2,1-3H3,(H,30,33);1H
